US07683067B2
Methyl 2-hydroxy-3-{5-[(4-methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indole-5-carboxylate
The title compound was prepared as described for Example 103 using 1-[(6-chloropyridine-3-yl)sulfonyl]-4-methylpiperazine (described in: Thunus. L. Annales Pharmaceutiques Francaises 1977, 35, 197-204) and methyl 2-oxoindoline-5-carboxylate to give the title compound in 59% yield, but without the treatment of the base with hydrochloric acid to from the salt: 1H NMR (D2O, 400 MHz) δ 8.03 (d, J=2 Hz, 1H), 7.44 (m, 1H), 7.30 (d, J=8 Hz, 1H), 7.23 (s, 1H), 6.82 (d, J=9 Hz, 1H), 6.70 (d, J=8 Hz, 1H), 3.93 (m, 2H), 3.82 (s, 3H), 3.65 (m, 2H), 3.28 (m, 2H), 3.03 (m, 2H), 2.94 (s, 3H); MS (TSP) m/z 431 (M++1).

reactant | 1-[(6-chloropyridine-3-yl)sulfonyl]-4-methylpiperazine | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)C | C10H14ClN3O2S
reactant | methyl 2-oxoindoline-5-carboxylate | O=C1NC2=CC=C(C=C2C1)C(=O)OC | C10H9NO3
product | Methyl 2-hydroxy-3-{5-[(4-methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indole-5-carboxylate | OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C(=O)OC | C20H22N4O5S
